US04631194
Preparation of Isobutyl-3-(Propylthio)Butyrate
Into a 25 cc micro flask equipped with spin bar, hot plate (equipped with magnetic stirrer), reflux condenser and thermometer are placed 5 grams (0.0284 moles) of methyl-3-(propylthio)butyrate; 8.4 grams (0.1136 moles) of isobutyl alcohol and 0.05 grams of para-toluene sulfonic acid. With stirring, the reaction mass is heated to reflux and refluxed for a period of 14 hours. At the end of the 14 hour period, the reaction mass is cooled and distilled on a micro Vigreux column yielding the following fractions:

reactant | methyl-3-(propylthio)butyrate | 0.0284 moles, 5 grams | COC(CC(C)SCCC)=O | C8H16O2S
reactant | isobutyl alcohol | 0.1136 moles, 8.4 grams | C(C(C)C)O | C4H10O
reactant | para-toluene sulfonic acid | 0.05 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Isobutyl-3-(Propylthio)Butyrate | C(C(C)C)OC(CC(C)SCCC)=O | C11H22O2S
